*****************************************************************
* NXP BUK9Y21-40E
*
* Polarity N-Channel
* Ratings 40V/2.100000E-002OHMS/32.664330194611A
*
* Date Created Tue Feb 05 07:35:37 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y21-40E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0118382251844697 TC=0.00396129243057112,1.69141435175694E-05
RBD 9 4 0.00348382424109174 TC=0.00396129243057112,1.69141435175694E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 5.5e-10
RG 1 2 2.03663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	359.187
+ -10	358.848
+ -8	358.44
+ -6	357.593
+ -5	356.881
+ -4	355.554
+ -3	352.269
+ -2	466.476
+ -1	329.904
+ -0.5	232.531
+ -0.2	183.768
+ -0.1	160.827
+ 0	171.633
+ 0.1	182.735
+ 0.2	150.687
+ 0.5	129.351
+ 1	114.931
+ 2	100.735
+ 3	92.874
+ 4	87.335
+ 5	83
+ 6	79.74
+ 8	75.406
+ 10	72.711
+ 12	70.83
+ 15	68.782
+ 20	66.211
+ 25	64.082
+ 30	62.301



.MODEL MINT NMOS(Vto=2.00435835739154 Kp=5.641896e+001 Nfs=410000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=8.25195014210547e-14
+ N=1 M=0.56 VJ=0.59 Fc=0.5 Cjo=3.28337e-10 Tt=7.648e-09)

.ENDS

